resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.016412
R2 0 n2 1.018278
R3 0 n4 15.802337
R4 n1 n3 1.019357
R5 n1 n5 1.005544
R6 n2 n3 0.98192
R7 n2 n6 0.985456
R8 n3 n7 1.01757
R9 n4 n5 1.003067
R10 n4 n6 0.987049
R11 n5 n7 0.990734
R12 n6 n7 0.997987
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
